US08685964B2
Step 5: 2-[6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]pyrimidine
Under argon, 0.73 g (2.7 mmol) of 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine and 0.8 g (2.9 mmol) of (3-dimethylaminoallylidene)dimethylammonium hexafluorophosphate in 30 ml of ethanol were heated under reflux with 3 ml of sodium ethoxide as a solution in ethanol (21%, corresponds to 8.1 mmol) for 6 h. The mixture was concentrated, Na citrate buffer, dil. aqueous sodium hydroxide solution to pH=9, aq. NaCl and ethyl acetate/THF were added, the aqueous phase was extracted three more times with dichloromethane/2-propanol and the combined organic phases were dried with MgSO4 and concentrated by evaporation. The residue was recrystallized from ethanol, during this operation, the mixture was briefly boiled with activated carbon and filtered whilst still hot, the filtrate was concentrated slightly and the precipitate formed was washed with MTBE and dried on a rotary evaporator. The residue was purified further by filtration through silica gel using acetone.

reactant | 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine | 2.7 mmol, 0.73 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(=N)N | C14H12N6
reactant | (3-dimethylaminoallylidene)dimethylammonium hexafluorophosphate | 2.9 mmol, 0.8 g | F[P-](F)(F)(F)(F)F.CN(C=CC=[N+](C)C)C
reactant | sodium ethoxide | 3 ml | [O-]CC.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 8.1 mmol | C(C)O | C2H6O
product | 2-[6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridin-2-yl]pyrimidine | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C1=NC=CC=N1 | C17H12N6
